US07598384B2
2-Cyclohexylamino-5-oxo-5,6,7,8-tetrahydro-quinoline-3-carbonitrile
A solution of 2-chloro-5-oxo-5,6,7,8-tetrahydro-quinoline-3-carbonitrile (0.154 g, 0.75 mmol), cyclohexylamine (0.15 g, 1.5 mmol) and triethylamine (0.115 ml, 0.083 g, 0.82 mmol) in ethyl alcohol (3 ml) was heated at reflux for 3 h. Then water (10 ml) was added and the precipitated solid was filtered off and recrystallized from ethyl alcohol to give the title compound (0.12 g, 59%).

reactant | 2-chloro-5-oxo-5,6,7,8-tetrahydro-quinoline-3-carbonitrile | 0.75 mmol, 0.154 g | ClC1=NC=2CCCC(C2C=C1C#N)=O | C10H7ClN2O
reactant | cyclohexylamine | 1.5 mmol, 0.15 g | C1(CCCCC1)N | C6H13N
reactant | triethylamine | 0.82 mmol, 0.115 ml, 0.083 g | C(C)N(CC)CC | C6H15N
reactant | water | 10 ml | O | H2O
solvent | ethyl alcohol | 3 ml | C(C)O | C2H6O
product | 2-Cyclohexylamino-5-oxo-5,6,7,8-tetrahydro-quinoline-3-carbonitrile | 0.12 g, 59% | C1(CCCCC1)NC1=NC=2CCCC(C2C=C1C#N)=O | C16H19N3O
